US07897597B2
Ethoxyacetyl chloride (3.5 mL, 32.0 mmol) was added to a solution of tert-butyl [2-(3-amino-6-benzyloxyquinolin-4-ylamino)-1,1-dimethylethyl]carbamate (12.71 g, 29.1 mmol) and triethylamine (8.1 mL, 58.2 mmol) in approximately 250 mL of anhydrous dichloromethane. After stirring for 2 hours, the volatiles were removed under reduced pressure and the resulting brown residue was dissolved in ethanol, followed by the addition of 8.1 mL of triethylamine. The reaction was heated at reflux for 2.5 days and then cooled to ambient temperature. The solvent was removed under reduced pressure and dichloromethane was added. The solution was sequentially washed with aqueous sodium bicarbonate (2×) followed by brine; dried over sodium sulfate; filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used eluting with a gradient of 0-15% CMA in chloroform to provide 8.4 g of tert-butyl [2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]carbamate as an orange foam.

reactant | Ethoxyacetyl chloride | 32.0 mmol, 3.5 mL | C(C)OCC(=O)Cl | C4H7ClO2
reactant | tert-butyl [2-(3-amino-6-benzyloxyquinolin-4-ylamino)-1,1-dimethylethyl]carbamate | 29.1 mmol, 12.71 g | NC=1C=NC2=CC=C(C=C2C1NCC(C)(C)NC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
reactant | triethylamine | 58.2 mmol, 8.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | approximately 250 mL | ClCCl | CH2Cl2
product | tert-butyl [2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]carbamate | 8.4 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)NC(OC(C)(C)C)=O)COCC | C29H36N4O4
